US04548751
(B) (S)-2-Bromo-3-(phenylmethoxy)propanoic acid, diphenylmethyl ester
To a solution of (S)-2-bromo-3-(phenylmethoxy)propanoic acid (7.63 g, 29.4 mmol) in acetone (30 ml) was added solid diphenyldiazomethane (5.81 g, 29.9 mmol) over the course of three minutes. The solution heated and nitrogen evolved vigorously. The purple solution was stirred for an additional 45 minutes, followed by the addition of acetic acid (1 ml) to quench any residual diphenyldiazomethane. The solution was extracted with saturated sodium bicarbonate (50 ml), washed with saturated sodium chloride (50 ml), dried over magnesium sulfate and evaporated at reduced pressure to give the crude product (11.24 g). Purification by chromatography on silica gel (95:5; hexane:ethyl acetate) afforded the title compound (6.38 g).

reactant | (S)-2-bromo-3-(phenylmethoxy)propanoic acid | 29.4 mmol, 7.63 g | Br[C@H](C(=O)O)COCC1=CC=CC=C1 | C10H11BrO3
reactant | diphenyldiazomethane | 29.9 mmol, 5.81 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | (S)-2-Bromo-3-(phenylmethoxy)propanoic acid, diphenylmethyl ester | 6.38 g | Br[C@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=CC=CC=C1 | C23H21BrO3
